US03935174
1-chloro-2-methylene propane-3-phosphonic acid diethyl ester
34 parts by weight of 2-methylene propane-1,3-dichloride are heated to 135°C, after which 30 parts by weight of triethyl phosphite are added dropwise with stirring, Ethyl chloride distills off continuously during the dropwise addition. On completion of the dropwise addition, the reaction temperature is increased slowly to 180°C. After 3 to 4 hours at 180°C, the evolution of ethyl chloride is at an end and the reaction is over. The excess dihalide is distilled off in a water-jet vacuum. The resulting 1-chloro-2-methylene propane-3-phosphonic acid diethyl ester is distilled off in a high vacuum.

reactant | 2-methylene propane-1,3-dichloride | C=C(CCl)CCl | C4H6Cl2
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
product | 1-chloro-2-methylene propane-3-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC(CCl)=C | C8H16ClO3P
